### PR TITLE
[Merged by Bors] - feat(NumberTheory/Divisors): add divisorAntidiagonal equivalence.

### PR DESCRIPTION
**Pull request by CBirkbeck**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Divisors.lean [hunk 1]
```diff
@@ -742,3 +743,35 @@ lemma mul_mem_zero_one_two_three_four_iff {a b : ℤ} (h₀ : a = 0 ↔ b = 0) :
...
+
+section pnat
+
+/-- The map from `Nat.divisorsAntidiagonal n` to `ℕ+ × ℕ+` given by sending `n = a * b`
+to `(a , b)`. -/
+def mapdiv (n : ℕ+) : Nat.divisorsAntidiagonal n → ℕ+ × ℕ+ := by
+  refine fun x =>
+   ⟨⟨x.1.1, Nat.pos_of_mem_divisors (Nat.fst_mem_divisors_of_mem_antidiagonal x.2)⟩,
+    (⟨x.1.2, Nat.pos_of_mem_divisors (Nat.snd_mem_divisors_of_mem_antidiagonal x.2)⟩ : ℕ+),
+    Nat.pos_of_mem_divisors (Nat.snd_mem_divisors_of_mem_antidiagonal x.2)⟩
```
Comment (tb65536) [inline Mathlib/NumberTheory/Divisors.lean]: Also, the name needs to be more descriptive or namespaced.
```suggestion
def mapdiv (n : ℕ+) : Nat.divisorsAntidiagonal n → ℕ+ × ℕ+ :=
  fun x ↦
   ⟨⟨x.1.1, Nat.pos_of_mem_divisors (Nat.fst_mem_divisors_of_mem_antidiagonal x.2)⟩,
    (⟨x.1.2, Nat.pos_of_mem_divisors (Nat.snd_mem_divisors_of_mem_antidiagonal x.2)⟩ : ℕ+),
    Nat.pos_of_mem_divisors (Nat.snd_mem_divisors_of_mem_antidiagonal x.2)⟩
```

File: Mathlib/NumberTheory/Divisors.lean [hunk 2]
```diff
@@ -742,3 +743,35 @@ lemma mul_mem_zero_one_two_three_four_iff {a b : ℤ} (h₀ : a = 0 ↔ b = 0) :
...
+
+/-- The equivalence from the union over `n` of `Nat.divisorsAntidiagonal n` to `ℕ+ × ℕ+`
+given by sending `n = a * b` to `(a , b)`. -/
+def sigmaAntidiagonalEquivProd : (Σ n : ℕ+, Nat.divisorsAntidiagonal n) ≃ ℕ+ × ℕ+ where
+  toFun x := mapdiv x.1 x.2
+  invFun x :=
+    ⟨⟨x.1.1 * x.2.1, mul_pos x.1.2 x.2.2⟩, ⟨x.1, x.2⟩, by
+      simp only [PNat.mk_coe, Nat.mem_divisorsAntidiagonal, ne_eq, mul_eq_zero, not_or]
+      refine ⟨rfl, PNat.ne_zero x.1, PNat.ne_zero x.2⟩⟩
```
Comment (tb65536) [inline Mathlib/NumberTheory/Divisors.lean]:
```suggestion
    ⟨⟨x.1.val * x.2.val, mul_pos x.1.2 x.2.2⟩, ⟨x.1, x.2⟩, by simp [Nat.mem_divisorsAntidiagonal]⟩
```

File: Mathlib/NumberTheory/Divisors.lean [hunk 3]
```diff
@@ -742,3 +743,35 @@ lemma mul_mem_zero_one_two_three_four_iff {a b : ℤ} (h₀ : a = 0 ↔ b = 0) :
...
+  left_inv := by
+    rintro ⟨n, ⟨k, l⟩, h⟩
+    rw [Nat.mem_divisorsAntidiagonal] at h
+    simp_rw [mapdiv, PNat.mk_coe]
+    ext <;> simp [h] at *
+    rfl
```
Comment (tb65536) [inline Mathlib/NumberTheory/Divisors.lean]:
```suggestion
    ext <;> simp [mapdiv, ← PNat.coe_injective.eq_iff, h.1]
```

File: Mathlib/NumberTheory/Divisors.lean [hunk 4]
```diff
@@ -742,3 +743,35 @@ lemma mul_mem_zero_one_two_three_four_iff {a b : ℤ} (h₀ : a = 0 ↔ b = 0) :
...
+  right_inv := by
+    rintro ⟨n, ⟨k, l⟩, h⟩
+    · simp_rw [mapdiv]
+      norm_cast
+    · rfl
```
Comment (tb65536) [inline Mathlib/NumberTheory/Divisors.lean]:
```suggestion
  right_inv _ := rfl
```

File: Mathlib/NumberTheory/Divisors.lean [hunk 5]
```diff
@@ -742,3 +743,27 @@ lemma mul_mem_zero_one_two_three_four_iff {a b : ℤ} (h₀ : a = 0 ↔ b = 0) :
   aesop
 
 end Int
+
+section pnat
+
+/-- The map from `Nat.divisorsAntidiagonal n` to `ℕ+ × ℕ+` given by sending `n = a * b`
+to `(a , b)`. -/
+def divisorsAntidiagonal_factors (n : ℕ+) : Nat.divisorsAntidiagonal n → ℕ+ × ℕ+ :=
```
Comment (tb65536) [inline Mathlib/NumberTheory/Divisors.lean]: I think there shouldn't be an underscore?
```suggestion
def divisorsAntidiagonalFactors (n : ℕ+) : Nat.divisorsAntidiagonal n → ℕ+ × ℕ+ :=
```

**Review by tb65536 — APPROVED** [review]
maintainer delegate

**Comment by riccardobrasca** [comment]
Can you add a (very) basic API?

**Comment by CBirkbeck** [comment]
Sure I've added some basic stuff for now. But if you see anything else I should add let me know.

**Comment by CBirkbeck** [comment]
Ok I moved this into a new file and you can see where this is going to be used in #28690

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
